US04745212
EXAMPLE 2 (12-isocyanatododecanoic acid methyl ester)
0.1 mole 12-isocyanatododecanoic acid chloride was reacted as in Example 1 with 0.11 mole methoxytrimethyl silane at 75° C. until the acid chloride band at 1800 cm-1 had disappeared. The desired product was obtained after distillation.

reactant | 12-isocyanatododecanoic acid chloride | 0.1 mole | N(=C=O)CCCCCCCCCCCC(=O)Cl | C13H22ClNO2
reactant | methoxytrimethyl silane | 0.11 mole | CO[Si](C)(C)C | C4H12OSi
product | 12-isocyanatododecanoic acid methyl ester | COC(CCCCCCCCCCCN=C=O)=O | C14H25NO3
